US06689551B1
4-Dodecylsulfonylbenzoyl Chloride (2)
4-Dodecylsulfonylbenzoic acid (25.45 g, 71.8 mMole) was added to thionyl chloride (100 mL) together with 2 drops of dirnethylformarnide. The resulting mixture was heated to 60° C. for 3 hours. The solution was then cooled, concentrated under reduced pressure and co-evaporated with ethyl acetate (2×50 mL). The residual solid, assuming a quantitative yield, was taken on to the next step.

reactant | 4-Dodecylsulfonylbenzoic acid | 71.8 mMole, 25.45 g | C(CCCCCCCCCCC)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C19H30O4S
reactant | thionyl chloride | 100 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | dirnethylformarnide | 2 drops | CN(C=O)C | C3H7NO
product | 4-Dodecylsulfonylbenzoyl Chloride | quantitative yield | C(CCCCCCCCCCC)S(=O)(=O)C1=CC=C(C(=O)Cl)C=C1 | C19H29ClO3S
